US07211668B2
N-[2-(5-methyl-1,3,4-thiadiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester
The title compound was synthesized by the reaction of N-(2-aminoethyl)-glycine ethyl ester 2HCl with 5-methyl-1,3,4-thiadiazole-2-sulfonyl chloride as per the procedure of example 1. 1H HMR (500 MHz; DMSO-d6) δ 4.07 (q, 2H), 3.27 (s, 2H), 3.09 (t, 2H), 2.82 (s, 3H), 2.62 (t, 2H), 1.18 (t, 3H).

reactant | N-(2-aminoethyl)-glycine ethyl ester 2HCl | Cl.Cl.C(C)OC(CNCCN)=O
reactant | 5-methyl-1,3,4-thiadiazole-2-sulfonyl chloride | CC1=NN=C(S1)S(=O)(=O)Cl | C3H3ClN2O2S2
product | N-[2-(5-methyl-1,3,4-thiadiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester | C(C)OC(CNCCNS(=O)(=O)C=1SC(=NN1)C)=O | C9H16N4O4S2
